US05763144
Preparation of 1-[4-(1,1-dioxo-thiomorpholin-4-yl)-phenoxy]-3-(2,2,4-trimethyl-3-hydroxy-pentyloxy)-propan-2-ol (114)
4-(1,1-dioxo-thiomorpholin-4-yl)phenol (1.13 g, 5 mmol), 2,2,4-trimethyl-3-hydroxy-pentyloxyglycidyl ether (1.0 g, 5 mmol) and ethyltriphenylphosphonium bromide (0.1 g) are reacted and purified as described for compound 102 to afford a light yellow liquid 0.86 g (40%).

reactant | 4-(1,1-dioxo-thiomorpholin-4-yl)phenol | 5 mmol, 1.13 g | O=S1(CCN(CC1)C1=CC=C(C=C1)O)=O | C10H13NO3S
reactant | 2,2,4-trimethyl-3-hydroxy-pentyloxyglycidyl ether | 5 mmol, 1.0 g | CC(COC(C1CO1)OC(C1CO1)OCC(C(C(C)C)O)(C)C)(C(C(C)C)O)C | C22H42O7
catalyst | ethyltriphenylphosphonium bromide | 0.1 g | [Br-].C(C)[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
product | 1-[4-(1,1-dioxo-thiomorpholin-4-yl)-phenoxy]-3-(2,2,4-trimethyl-3-hydroxy-pentyloxy)-propan-2-ol | 0.86 g, 40% | O=S1(CCN(CC1)C1=CC=C(OCC(COCC(C(C(C)C)O)(C)C)O)C=C1)=O | C21H35NO6S
